US06043242
B5. 3-Nitroimidazo[1,2-b]pyridazine-6-thiol
A solution of 1.0 g (2.28 mmol) of 3-nitro-6-tritylsulfanylimidazo[1,2-b]pyridazine in 10 ml of anhydrous dichloromethane is treated with 0.73 ml (4.56 mmol) of triethylsilane and 1.0 ml (13 mmol) of trifluoroacetic acid under an argon atmosphere and stirred at room temperature for 3 h. 10 ml of 2N sodium hydroxide solution is then added and the mixture is extracted with 3×20 ml of ethyl acetate. The aqueous phase is then adjusted to pH 2 using hydrochloric acid and subsequently extracted with 3×20 ml of ethyl acetate. The organic extracts are washed with 20 ml of water, dried over magnesium sulfate and concentrated. The residue is crystallized by addition of a little diethyl ether. 0.34 g (76%) of the title compound is isolated as a pale yellow solid. M.p. 175-177° C.

reactant | 3-nitro-6-tritylsulfanylimidazo[1,2-b]pyridazine | 2.28 mmol, 1.0 g | [N+](=O)([O-])C1=CN=C2N1N=C(C=C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18N4O2S
reactant | triethylsilane | 4.56 mmol, 0.73 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 13 mmol, 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Nitroimidazo[1,2-b]pyridazine-6-thiol | 0.34 g, 76% | [N+](=O)([O-])C1=CN=C2N1N=C(C=C2)S | C6H4N4O2S
